US05126337
Ethyl 6,8-difluoro-1-methyl-4-oxo-7-((S)-3-trifluoroacetylamino-1-pyrrolidinyl)-1H,4H-[1,3]thiazeto[3,2-a]quinoline-3-carboxylate
A mixture of 1.34 g of ethyl 6,7,8-trifluoro-1-methyl-4-oxo-1H,4H-[1,3]thiazeto[3,2-a]quinoline-3-carboxylate, 2.66 g of (S)-3-trifluoroacetylaminopyrrolidine hydrochloride [[α]D20 -28.6° (c=1, MeOH)], 1.80 g of 1.8-diazabicyclo[5,4,0]-7-undecene and 30 ml of N,N-dimethylformamide was stirred at room temperature for 5 hours. The reaction mixture was concentrated in vacuo, and water was added to the residue. The precipitate was collected by filtration and was chromatographed on silica gel using chloroform-methanol (8:2) to give the desired compound, which was recrystallized from methanol to give 0.80 g of pale yellow needles, m.p. 219°-224° C.

reactant | ethyl 6,7,8-trifluoro-1-methyl-4-oxo-1H,4H-[1,3]thiazeto[3,2-a]quinoline-3-carboxylate | 1.34 g | FC=1C=C2C(C(=C3N(C2=C(C1F)F)C(S3)C)C(=O)OCC)=O | C14H10F3NO3S
reactant | (S)-3-trifluoroacetylaminopyrrolidine hydrochloride | 2.66 g | Cl.FC(C(=O)N[C@@H]1CNCC1)(F)F
reactant | 1.8-diazabicyclo[5,4,0]-7-undecene | 1.80 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | Ethyl 6,8-difluoro-1-methyl-4-oxo-7-((S)-3-trifluoroacetylamino-1-pyrrolidinyl)-1H,4H-[1,3]thiazeto[3,2-a]quinoline-3-carboxylate | FC=1C=C2C(C(=C3N(C2=C(C1N1C[C@H](CC1)NC(C(F)(F)F)=O)F)C(S3)C)C(=O)OCC)=O | C20H18F5N3O4S
